US04097670
9.0 g. of D,L-alanine and 19.0 g. of p-toluenesulfonic acid monohydrate are dissolved in 50 ml. of dimethylformamide. 21.1 g. of diphenyldiazomethane in 100 ml. of dimethylformamide are added dropwise at 50°. This mixture is stirred for 1 hour at 50° and then the solvent is distilled off in vacuum. The oily residue solidifies upon treatment with ether. The D,L-alanine, diphenylmethyl ester p-toluenesulfonate salt is recrystallized from acetonitrile and is obtained as white crystals, yield 13.5 g.; m.p. 170°-172°. 30 g. of this salt are dissolved in 200 ml. of water, layered over with 200 ml. of chloroform and 10 g. of sodium bicarbonate are added with frequent agitation. The organic phase is washed with 50 ml. of water, dried over sodium sulfate and evaporated. 17 g. of white crystalline D,L-alanine, diphenylmethyl ester are obtained, m.p. 60°-62°.

reactant | D,L-alanine | NC(C)C(=O)O | C3H7NO2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | D,L-alanine, diphenylmethyl ester | NC(C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H17NO2
